US07915297B2
To a solution of 1.41 g of (5-furan-2-yl-isoxazol-3-yl)-methanol and 1.77 mL of TEA in 45 mL of methylene chloride was slowly added 0.73 mL of methanesulfonyl chloride at 0° C. After stirring for 1 hr, the reaction solution was washed with water and 1N HCl, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to provide 10.0 g of methanesulfonic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester. This concentrate was used for the next step without further purification.

reactant | (5-furan-2-yl-isoxazol-3-yl)-methanol | 1.41 g | O1C(=CC=C1)C1=CC(=NO1)CO | C8H7NO3
reactant | methanesulfonyl chloride | 0.73 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 5-furan-2-yl-isoxazol-3-ylmethyl ester | 10.0 g | O1C(=CC=C1)C1=CC(=NO1)COS(=O)(=O)C | C9H9NO5S
